US04470986
Thionyl chloride (11.42 g) is added slowly at room temperature to a suspension of 5-(5-carboxypentyl)imidazo[1,5-a]pyridine (21.0 g) and sulfamide (10.5 g) in 90 ml of sulfolane. The mixture is heated at 120° until gas evolution ceases and solid p-toluenesulfonic acid monohydrate (1.71 g) is added carefully. After heating an additional 3 hours at 120°, the reaction mixture is cooled, poured onto 200 g of ice and acidified with 130 ml of 1N hydrochloric acid. The aqueous phase is sequentially extracted with ethyl acetate (3×100 ml), made basic with solid sodium bicarbonate and reextracted with ethyl acetate (3×125 ml). The organic extracts are washed with 0.5N sodium hydroxide (5×50 ml), dried over sodium sulfate and evaporated to yield an oil which is chromatographed on 60 g of silica gel with ethyl acetate to yield 5-(5-cyanopentyl)-imidazo[1,5-a]pyridine as an oil.

reactant | Thionyl chloride | 11.42 g | S(=O)(Cl)Cl | Cl2OS
reactant | 5-(5-carboxypentyl)imidazo[1,5-a]pyridine | 21.0 g | C(=O)(O)CCCCCC1=CC=CC=2N1C=NC2 | C13H16N2O2
reactant | sulfamide | 10.5 g | S(=O)(=O)(N)N | H4N2O2S
reactant | p-toluenesulfonic acid monohydrate | 1.71 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | hydrochloric acid | 1N, 130 ml | Cl | ClH
solvent | sulfolane | 90 ml | S1(=O)(=O)CCCC1 | C4H8O2S
product | 5-(5-cyanopentyl)-imidazo[1,5-a]pyridine | C(#N)CCCCCC1=CC=CC=2N1C=NC2 | C13H15N3
